US06335346B1
NaH (1.2 eq; 60% suspension in oil) is added to a solution of 1-methylene-2-cyclopropylcarbonyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline (500 mg; 1.7 mmol) in DMF (5 ml). The mixture is stirred under an oxygen atmosphere for 48 hours, further NaH (1.1 eq) is then added and stirring is continued overnight. The DMF is then distilled off under reduced pressure. The crude product is taken up in water and then filtered off. Saturated NH4Cl solution is added to the aqueous phase. The mixture is stirred for 30 minutes. The precipitate is filtered off and then washed successively with water, an MeOH/CH2Cl2 mixture (10/90), acetone and then ethyl acetate. After drying, 2-cyclopropylcarbonyl-7-methoxy-3-methylene-9-oxo-1,3,4,9-tetrahydropyrrolo[3,4-b]quinoline is obtained (yield=38%).

reactant | NaH | 1.2 eq | [H-].[Na+]
reactant | 1-methylene-2-cyclopropylcarbonyl-6-methoxy-1,2,3,4-tetrahydro-β-carboline | 1.7 mmol, 500 mg | C=C1N(CCC=2C3=CC(=CC=C3NC12)OC)C(=O)C1CC1 | C17H18N2O2
reactant | NaH | 1.1 eq | [H-].[Na+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-cyclopropylcarbonyl-7-methoxy-3-methylene-9-oxo-1,3,4,9-tetrahydropyrrolo[3,4-b]quinoline | yield=38% | C1(CC1)C(=O)N1C(C=2NC=3C=CC(=CC3C(C2C1)=O)OC)=C | C17H16N2O3
